US07884234B2
(3) Preparation of methyl N-[4′-(trifluoromethoxy)biphenyl-4-yl]oxamate
A solution of methyl chloroglyoxylate (2.98 ml, 32.4 mmol) in dichloromethane (10 ml) was added dropwise at a slow speed to a mixture of 4-amino-4′-(trifluoromethoxy)biphenyl (5.476 g, 21.6 mmol), sodium hydrogencarbonate (3.62 g, 43.2 mmol), dichloromethane (40 ml) and water (40 ml), and stirred at 0° for 2 hours. The reaction mixture was diluted with water, and extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure to give the title compound (6.71 g, 91.5%) as a white solid.

reactant | methyl chloroglyoxylate | 32.4 mmol, 2.98 ml | ClC(C(=O)OC)=O | C3H3ClO3
reactant | 4-amino-4′-(trifluoromethoxy)biphenyl | 21.6 mmol, 5.476 g | NC1=CC=C(C=C1)C1=CC=C(C=C1)OC(F)(F)F | C13H10F3NO
reactant | sodium hydrogencarbonate | 43.2 mmol, 3.62 g | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
solvent | water | 40 ml | O | H2O
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | methyl N-[4′-(trifluoromethoxy)biphenyl-4-yl]oxamate | 6.71 g, 91.5% | FC(OC1=CC=C(C=C1)C1=CC=C(C=C1)NC(C(=O)OC)=O)(F)F | C16H12F3NO4
